US04335137
Under a dry argon atmosphere, a stirred solution of 3.0 g (0.017 mole) of 2-(2,2-dichloroethenyl)thiophene and 1.33 g (0.017 mole) of acetyl chloride in 10 ml of methylene chloride was cooled to -20° C. During a five minute period 2.24 g (0.017 mole) of anhydrous aluminum chloride was added. The reaction mixture was warmed to 10° C., then poured into 250 ml of cold water. The resultant mixture was extracted with two 100 ml portions of diethyl ether. The combined extracts were washed with 30 ml of a dilute sodium carbonate solution, dried with anhydrous sodium sulfate and filtered. The solvent was evaporated to give a brown solid. The solid was dissolved in a small amount of toluene and subjected to column chromatography on 100 g of silica gel using n-heptane followed by a solution of 10% ethylacetate in n-heptane as eluant. A white solid was obtained and recrystallized from n-heptane to give 2.5 g of crude product. A sample of the crude product was sublimed at 90° C./7 pa to yield 5-(2,2-dichloroethenyl)-2-thienylethanone; mp 81°-85° C. The nmr and ir spectra were consistent with the proposed structure.

reactant | 2-(2,2-dichloroethenyl)thiophene | 0.017 mole, 3.0 g | ClC(=CC=1SC=CC1)Cl | C6H4Cl2S
reactant | acetyl chloride | 0.017 mole, 1.33 g | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 0.017 mole, 2.24 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | water | 250 ml | O | H2O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | n-heptane | CCCCCCC | C7H16
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 5-(2,2-dichloroethenyl)-2-thienylethanone | ClC(=CC1=CC=C(S1)C(C)=O)Cl | C8H6Cl2OS
